US06747023B1
To 2,3-Dimethyl-4-nitropyridine N-oxide (3.00 g) which had been cooled to 0° C., added was acetyl bromide (18.0 ml), followed by stirring at 50° C. for 20 minutes and then at 75° C. for 15 minutes. The reaction mixture was charged in ice water and neutralized with an aqueous solution of ammonium carbonate. The neutralized solution was separated using methylene chloride. The organic layer was dried over anhydrous sodium sulfate and the filtrate was concentrated, whereby a crudely purified product of 4-bromo-2,3-dimethylpyridine N-oxide was obtained.

reactant | 2,3-Dimethyl-4-nitropyridine N-oxide | 3.00 g | CC1=[N+](C=CC(=C1C)[N+](=O)[O-])[O-] | C7H8N2O3
reactant | acetyl bromide | 18.0 ml | C(C)(=O)Br | C2H3BrO
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
product | 4-bromo-2,3-dimethylpyridine N-oxide | BrC1=C(C(=[N+](C=C1)[O-])C)C | C7H8BrNO
